US07994166B2
(S)-2-(3,5-dichlorophenyl)morpholine
Synthesized according to General Procedure 35. To a stirring solution of (R)-1-((S)-2-(3,5-dichlorophenyl)-morpholino)-2-methoxy-2-phenylethanone (24 mg, 0.06 mmol) and THF (2.2 mL), under N2, at 0° C., was added a solution of Super-hydride in THF (1.0 M, 0.4 mL, 0.4 mmol) dropwise over 10 minutes. The solution was stirred at 0° C. for 30 minutes. The solution was poured into 2M aqueous HCl solution (3 mL) and washed with diethyl ether (3×3 mL). The aqueous phase was concentrated and purified by preparative HPLC. The ee was determined to be >98%. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=232.1; tR=1.04 min. SFC (Chiralpak IA, (0.46×25 cm), 35% methanol (0.1% DEA)/CO2, 3 mL/min): tR (S)=2.0 min, tR (R)=3.39 min.

reactant | (R)-1-((S)-2-(3,5-dichlorophenyl)-morpholino)-2-methoxy-2-phenylethanone | 0.06 mmol, 24 mg | ClC=1C=C(C=C(C1)Cl)[C@@H]1OCCN(C1)C([C@@H](C1=CC=CC=C1)OC)=O | C19H19Cl2NO3
reactant | Super-hydride | [Li+].[B-](CC)(CC)CC
reactant | HCl | 2M, 3 mL | Cl | ClH
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mmol, 1.0 M, 0.4 mL | C1CCOC1 | C4H8O
product | (S)-2-(3,5-dichlorophenyl)morpholine | ClC=1C=C(C=C(C1)Cl)[C@H]1CNCCO1 | C10H11Cl2NO
